US09428509B2
5-Chloro-1-ethyl-1H-pyrazol-4-amine
To a suspension of 1-ethyl-4-nitro-1H pyrazole (1 equiv) and iron dust (5 equiv) in EtOH (0.285 M) was added ammonium chloride (10 equiv). The mixture was heated to 80° C. for 20 h then cooled to room temperature. The solvent was removed under reduced pressure to give crude material that was purified by silica gel chromatography (1.5% MeOH in DCM) to provide the desired product (30% yield) as a yellow oil. MS (ESI) m/z 146.0 [M+H]+.

reactant | 1-ethyl-4-nitro-1H pyrazole | 1 equiv | C(C)N1N=CC(=C1)[N+](=O)[O-] | C5H7N3O2
reactant | ammonium chloride | 10 equiv | [Cl-].[NH4+]
solvent | EtOH | 0.285 M | CCO | C2H6O
catalyst | iron | 5 equiv | [Fe] | Fe
product | 5-Chloro-1-ethyl-1H-pyrazol-4-amine | 30% yield | ClC1=C(C=NN1CC)N | C5H8ClN3
